US09238640B2
To a solution of tert-butyl-[2-(3,5-dimethyl-phenoxy)-ethoxy]-dimethylsilane (2.22 g, 7.91 mmol) in carbon tetrachloride (50 mL) under nitrogen was added N-bromosuccinimide (1.57 g, 8.70 mmol) and benzoyl peroxide (0.38 g, 1.58 mmol). The resulting mixture was heated at reflux for 3 hours with simultaneous illumination by a sun lamp. The precipitate was filtered off and the filtrate was concentrated under reduced pressure. The crude material (3.99 g) was purified by column chromatography (silica gel 230-400 mesh; 1/0 to 4/1 hexanes/EtOAc as eluent) to give [2-(3-bromomethyl-5-methyl-phenoxy)-ethoxy]-tert-butyl-dimethyl-silane as a light yellow oil. Yield: 2.17 g (75%).

reactant | tert-butyl-[2-(3,5-dimethyl-phenoxy)-ethoxy]-dimethylsilane | 7.91 mmol, 2.22 g | C(C)(C)(C)[Si](C)(C)OCCOC1=CC(=CC(=C1)C)C | C16H28O2Si
reactant | N-bromosuccinimide | 8.70 mmol, 1.57 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 1.58 mmol, 0.38 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 50 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | [2-(3-bromomethyl-5-methyl-phenoxy)-ethoxy]-tert-butyl-dimethyl-silane | BrCC=1C=C(OCCO[Si](C)(C)C(C)(C)C)C=C(C1)C | C16H27BrO2Si
